US07737166B2
5-Amino-6-fluoro-4-methoxy-2-methylbiphenyl-3-carbonitrile (I-236)
5-Amino-2-bromo-6-fluoro-4-methoxy-2-methylbiphenyl-3-carbonitrile (I-235) (2.02 g, 6.29 mmol), potassium carbonate (2.61 g, 18.87 mmol) and tetrakis(triphenylphosphine)palladium(0) (727 mg, 0.63 mmol) were dissolved in 10% water-containing 1,4-dioxane (50 ml), and at room temperature, trimethylboroxine (50 wt. % tetrahydrofuran solution, 1.90 ml, 7.55 mmol) was added. After stirring under nitrogen atmosphere at 110° C. for 8 hours and then cooling to room temperature, tetrakis(triphenylphosphine)palladium(0) (727 mg, 0.63 mmol) was added, followed by further stirring at 110° C. for 11 hours. After cooling to room temperature, the insoluble matter was separated by filtration, the filtrate was fractionated with ethyl acetate and saturated brine. The organic layer was separated, the aqueous layer was again extracted with ethyl acetate.

reactant | 5-Amino-2-bromo-6-fluoro-4-methoxy-2-methylbiphenyl-3-carbonitrile | 6.29 mmol, 2.02 g | NC1=C(C(C(C(=C1F)C1=CC=CC=C1)(C)Br)C#N)OC | C15H14BrFN2O
reactant | potassium carbonate | 18.87 mmol, 2.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | trimethylboroxine | 7.55 mmol, 1.90 ml | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.63 mmol, 727 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.63 mmol, 727 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Amino-6-fluoro-4-methoxy-2-methylbiphenyl-3-carbonitrile | NC=1C(=C(C(=C(C1F)C1=CC=CC=C1)C)C#N)OC | C15H13FN2O
